US09102688B2
12-Chloro-6,6-dioxo-5,6-dihydro-6λ*6*-thia-4,5-diaza-chrysene-9-carboxylic acid pyrrolidin-3-yl ester (Example Compound 537)
In a similar fashion using route 55 general procedure 124, 12-chloro-6,6-dioxo-5,6-dihydro-6λ*6*-thia-4,5-diaza-chrysene-9-carboxylic acid 1-tert-butoxycarbonyl-pyrrolidin-3-yl ester (70 mg, 0.13 mmol) and 4M HCl in dioxane (3 ml) gave the title compound (41 mg, 73%) after washing with MeOH.

reactant | 12-chloro-6,6-dioxo-5,6-dihydro-6λ*6*-thia-4,5-diaza-chrysene-9-carboxylic acid 1-tert-butoxycarbonyl-pyrrolidin-3-yl ester | 0.13 mmol, 70 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC(=O)C1=CC=C2S(NC3=C4N=CC=CC4=C(C=C3C2=C1)Cl)(=O)=O | C25H24ClN3O6S
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 12-Chloro-6,6-dioxo-5,6-dihydro-6λ*6*-thia-4,5-diaza-chrysene-9-carboxylic acid pyrrolidin-3-yl ester | 41 mg, 73% | N1CC(CC1)OC(=O)C1=CC=C2S(NC3=C4N=CC=CC4=C(C=C3C2=C1)Cl)(=O)=O | C20H16ClN3O4S
